US06511987B1
(1) Methyl 3-Phenyl-1,2,4-triazolo[3,4-a]isoquinoline-6-carboxylate
A mixture of methyl 1-Chloroisoquinoline-4-carboxylate, prepared essentially according to procedures described in Example 1, part 4, (293 mg) and benzoic hydrazide (192 mg) in 8 ml of DMF is stirred at 100° C. overnight. The mixture is cooled and poured into water. The solid is then collected by filtration and dried to give the title compound as a solid (258 mg). LC-MS data for the title compound: HPLC: 2.34 min. MS (ES+) m/e 304 [M+H]+. (The HPLC retention time is obtained by the method of Example 1).

reactant | methyl 1-Chloroisoquinoline-4-carboxylate | ClC1=NC=C(C2=CC=CC=C12)C(=O)OC | C11H8ClNO2
reactant | benzoic hydrazide | 192 mg | C(C1=CC=CC=C1)(=O)NN | C7H8N2O
reactant | water | O | H2O
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | Methyl 3-Phenyl-1,2,4-triazolo[3,4-a]isoquinoline-6-carboxylate | 258 mg | C1(=CC=CC=C1)C1=NN=C2N1C=C(C1=CC=CC=C21)C(=O)OC | C18H13N3O2
